US04328244
To a 1-liter 3-necked round-bottomed flask equipped with overhead stirrer, reflux condenser, dropping funnel and thermometer and containing a stirred slurry of 33.8 g (0.195 mole) of sulfanilic acid in 150 ml of warm (60° C.) water was added 55 g (0.404 mole) of sodium acetate trihydrate and 50 ml of acetonitrile. The resulting yellow solution was heated to 70° C. and a solution of 35 g (0.127 mole) of the 4-(bromomethyl)benzophenone prepared above in 80 ml of acetonitrile was added dropwise over 11/2 hrs. The resulting solution was then refluxed for 5 hrs. Approximately 75 ml of acetonitrile was then removed by distillation at the same time that a dropwise addition of 32 ml of conc. HCl (over a 20 minute period) was made. The mixture was then vacuum filtered at 80° C. which gave a pale yellow powder. The powder was then slurried in 250 ml of water for 15 minutes and again isolated by vacuum filtration. The resulting solids were reslurried in 250 ml of methanol and isolated by vacuum filtration which afforded 25.28 g (54.2%) of purified 4-(((4-benzoylphenyl)methyl)amino)benzenesulfonic acid as a pale yellow powder, which decomposed at 257°-259° C.

reactant | sulfanilic acid | 0.195 mole, 33.8 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | sodium acetate trihydrate | 0.404 mole, 55 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | 4-(bromomethyl)benzophenone | 0.127 mole, 35 g | BrCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11BrO
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | water | 250 ml | O | H2O
solvent | methanol | 250 ml | CO | CH4O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(((4-benzoylphenyl)methyl)amino)benzenesulfonic acid | 25.28 g, 54.2% | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)CNC1=CC=C(C=C1)S(=O)(=O)O | C20H17NO4S
